US05258509
4-Nitrobenzyl (5R,6S)-6-((1R)-1-hydroxyethyl)-2-vinyl-1-carbapen-2-em-3-carboxylate
Under a nitrogen atmosphere, to a solution of 128 mg (0.368 mmol) of 4-nitrobenzyl (5R,6S)-6-((1R)-1-hydroxyethyl) -2-oxo-1-carbapenam-3-carboxylate in acetonitrile (3 ml), followed by 0.065 ml (0.37 mmol) of diisopropylethylamine at -45° C., followed by 0.062 ml (0.37 mmol) of trifluoromethanesulfonic anhydride, and the mixture was stirred for 2 hours at the same temperature. To the reaction mixture was added ethyl acetate (3 ml), and the organic layer was washed with saturated aqueous sodium bicarbonate followed by saturated aqueous sodium chloride. After the extract was dried over anhydrous magnesium sulfate, the solvent was removed. The residual triflate was used the next reaction without purification. To 181 mg of this crude product was added 108 mg (0.79 mmol) of zinc chloride, 5.1 mg (0.0087 mmol) of bis(benzylideneacetone)-palladium(0), and 4.2 mg (0.018 mmol) of tri(2-furyl)phosphine was added a solution of 132 mg (0.416 mmol) of vinyl(tri-n-butyl)tin in N-methylpyrrolidinone (6 ml), and the mixture was stirred for 2 hours at room temperature. To the reaction mixture was added ethyl acetate, and the organic layer was washed with water followed by saturated aqueous sodium chloride. After the extract was dried over anhydrous magnesium sulfate, the solvent was removed. The residue was purified by silica gel column chromatography (elution with ethyl acetatehexane system) to give 60.3 mg (yield: 47.9%) of the title compound.

reactant | 4-nitrobenzyl (5R,6S)-6-((1R)-1-hydroxyethyl) -2-oxo-1-carbapenam-3-carboxylate | 0.368 mmol, 128 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(C(C2)=O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C16H16N2O7
reactant | diisopropylethylamine | 0.37 mmol, 0.065 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | trifluoromethanesulfonic anhydride | 0.37 mmol, 0.062 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | tri(2-furyl)phosphine | 0.018 mmol, 4.2 mg | O1C(=CC=C1)P(C=1OC=CC1)C=1OC=CC1 | C12H9O3P
reactant | vinyl(tri-n-butyl)tin | 0.416 mmol, 132 mg | C(=C)[Sn](CCCC)(CCCC)CCCC
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
solvent | N-methylpyrrolidinone | 6 ml | CN1C(CCC1)=O | C5H9NO
catalyst | zinc chloride | 0.79 mmol, 108 mg | [Cl-].[Zn+2].[Cl-]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 3 ml | C(C)(=O)OCC | C4H8O2
product | 4-Nitrobenzyl (5R,6S)-6-((1R)-1-hydroxyethyl)-2-vinyl-1-carbapen-2-em-3-carboxylate | 60.3 mg, yield: 47.9% | O[C@H](C)[C@@H]1[C@@H]2N(C(=C(C2)C=C)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C18H18N2O6
